US04666504
4-Carboxy-1-(3,4-dichlorophenyl)-5-pyrazolecarboxamide.
Fifteen g. of ethyl 1-(3,4-dichlorophenyl)-5-cyano-4-pyrazolecarboxylate was dissolved in 200 ml. of ethanol, and 5.6 g. of potassium hydroxide was added. The reaction mixture was stirred under reflux for 1 hour, and was then poured over a large amount of ice and made acid with concentrated hydrochloric acid. The mixture was filtered, and the solids were found by nuclear magnetic resonance analysis to consist of the partially hydrolyzed 4-carboxy-5-cyanopyrazole. A 2 g. portion of that intermediate was held out for further examination, and the rest of the solids were redissolved in 200 ml. of ethanol and stirred under reflux for 18 hours with 5.6 g. of potassium hydroxide. The mixture was then poured over ice, made acid, and filtered. The solids were recrystallized from ethanol, and the mother liquor was chromatographed over a silica gel column with methanol as the eluent. The product-containing fractions were evaporated to dryness and the residues were recrystallized from methanol to obtain the desired product, m.p. 249°-250°. The elemental analysis was as follows.

reactant | ethyl 1-(3,4-dichlorophenyl)-5-cyano-4-pyrazolecarboxylate | ClC=1C=C(C=CC1Cl)N1N=CC(=C1C#N)C(=O)OCC | C13H9Cl2N3O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 4-Carboxy-1-(3,4-dichlorophenyl)-5-pyrazolecarboxamide | C(=O)(O)C=1C=NN(C1C(=O)N)C1=CC(=C(C=C1)Cl)Cl | C11H7Cl2N3O3
